Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
One week right leg pain and edema
 
Major Surgical or Invasive Procedure:
EVAR and right hypogastric artery coiling on ___.

 
History of Present Illness:
Mr. ___ is an ___ year old male with history of AAA s/p 
endovascular repair in ___.  He presented to ED with one-week 
history of right lower extremity edema and pain and was found on 
CT to have right common iliac artery aneurysm causing venous 
compression.
 
Past Medical History:
AAA s/p EVAR in ___
HTN
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
97.7 PO, 121/69, 82, RR18, 99% RA  
General: Mr. ___ is an elderly male in no apparent 
distress.  He is seated in a chair for this history.
HEENT: Head is atraumatic, normocephalic.  Mucous membranes are 
moist.  Sclerae are anicteric. Neck is supple.  There is no JVD. 
 Trachea is mideline.
CHEST: Normal S1, S2.  No S3.  No clicks, murmurs or rubs.
LUNGS: Clear to auscultation
Abdomen: Soft, non tender
Right groin and scrotom are ecchymotic.  
Lower extremities:  There is mild edema of the right lower 
extremity extending to the right foot.  There is a firm mass of 
the right groin, approximately 4cm x 4cm,  consistent with 
hematoma .  There is no tenderness.  The right femoral pulse is 
palpable and equal in strength to left femoral pulse.  Popliteal 
pulses palpable bilaterally.  Bilateral DP pulses faintly 
palpable.  I cannot appreciate bilateral ___ pulses because of 
bilateral ankle edema.  There is a strong ___ signal bilaterally. 
 Sensory and motor exam of both feet grossly intact.
 
Pertinent Results:
___ 04:00AM BLOOD Hct-30.6*
___ 04:00AM BLOOD Glucose-110* UreaN-38* Creat-0.7 Na-141 
K-4.1 Cl-106 HCO3-21* AnGap-14
___ 04:00AM BLOOD Calcium-8.2* Phos-2.4* Mg-2.0
 
Brief Hospital Course:
Mr. ___ underwent endovascular repair of his right common 
iliac artery aneurysm with coiling of right hypogastric on ___. 
 He tolerated the procedure well.  He developed a small hematoma 
of the right groin with surrounding ecchymosis extending to the 
scrotom.  This remained stable.  He was monitored closely and 
remained hemodynamically stable.  His pulse exam remained 
unchanged.  His right leg and foot edema persisted despite 
compression and intermittent elevation.  

On POD 1, he walked with physical therapy with a walker and 
tolerated ambulation well.  At time of discharge, his vital 
signs were stable.  He was ambulating essential distances with 
assistance and a walker and tolerating well.  He was voiding 
sufficient amounts of clear yellow urine.  He was tolerating a 
regular diet.  He denies palpitations, shortness of breath, 
lightheadedness, abdominal pain, back pain, groin pain, worsened 
leg or foot pain.

Discharge instructions are reviewed with patient and son.  They 
both demonstrate good understanding of need to present to ED if 
pt develops palpitations, shortness of breath, lightheadedness, 
abdominal pain, back pain, groin pain, worsened leg or foot 
pain.  He will undergo hemoglobin and hematocrit draw tomorrow 
by ___.  These results will be sent to pt's PCP.  Follow up with 
vascular surgery scheduled for one month.  He is provided the 
clinic phone number ___ and encouraged to call with any 
questions or concerns.  
 
Medications on Admission:
Amlodipine 7.5mg daily
aspirin 81 mg daily
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  amLODIPine 7.5 mg PO DAILY  
3.  Aspirin EC 81 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right lower extremity edema and pain secondary to right common 
iliac artery aneurysm s/p endovascular repair

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital because of right lower 
extremity pain and edema.  You were found to have an aneurysm of 
the right common iliac artery.  You underwent repair by 
endovascular stent graft.  To perform this procedure, small 
punctures were made in the arteries in both groins.  You 
developed a small hematoma of the right groin.  This remained 
stable after following it closely.  You tolerated the procedure 
well and are now ready to be discharged from the hospital.  No 
medication changes were deliberately made.  Please follow the 
below instructions for an uncomplicated recovery.  

If your groin pain gets worse or your right leg or foot pain or 
swelling persist, please call the clinic at ___.  You 
should also call with any questions or concerns.

WHAT TO EXPECT:
Bruising, tenderness, and a sensation of fullness at the groin 
puncture sites (or incisions) is common.  This might persist for 
up to one-two weeks

CARE OF THE GROIN PUNCTURE SITES:
It is normal to have mild swelling, a small bruise, or small 
amounts of drainage at the groin puncture sites.  In two weeks, 
you may feel a small, painless, pea sized knot at the puncture 
sites.  Male patients may notice mild swelling in the scrotum.  
Look at the area daily to see if there are any changes.  Be sure 
to report signs of infection.  These include: increasing 
redness; worsening pain; new or increasing drainage, or drainage 
that is white, yellow, or green; or fever of 101.5 or more.  (If 
you have taken aspirin, Tylenol, or other fever reducing 
medicine, wait at least ___ hours after taking it before you 
check your temperature in order to get an accurate reading.)  
You may shower.  Let the soapy water run over the puncture 
sites, then rinse and pat dry.  Do not rub these sites and do 
not apply cream, lotion, ointment or powder.  Wear loose-fitting 
pants and clothing as this will be less irritating to the groin 
puncture sites.

FOR SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision)
If you have sudden, severe bleeding or swelling at either of the 
groin puncture sites:
Lie down, keep leg straight and apply (or have someone apply) 
firm pressure to area for ___ minutes with a gauze pad or 
clean cloth.
Once bleeding has stopped, call your surgeon to report what 
happened.
If bleeding does not stop, call ___

MEDICATIONS
Take aspirin 81mg daily.  Take your other medications as you 
normally wound.  No changes have been made to your regimen.  

PAIN MANAGEMENT
 Most patients do not have much pain following this procedure.   
Your puncture sites may be a little sore.  This will improve 
daily. If it is getting worse, please let us know.
You may take Tylenol ___ every 6 hours as needed for pain.  Be 
aware that some over-the-counter and prescription medications 
contain Tylenol (Acetaminophen).  Your daily total of Tylenol 
(acetaminophen) should never exceed 3000mg.

ACTIVITY
 You must limit activity to protect the puncture sites in your 
groin.  For ONE WEEK:
 Do not drive
 Do not swim, take a tub bath or go in a Ja___ or hot tub
 Do not lift, push, pull or carry anything heavier than five 
pounds
 Do not do any exercise or activity that causes you to hold your 
breath or bear down with your abdominal muscles.
 Do not resume sexual activity
 Discuss with your surgeon when you may return to other regular 
activities, including work.  If needed, we will give you a 
letter for your workplace.
You may feel weak and tired.  This can last six-eight weeks, but 
should get better day by day.  You may want to have help around 
the house during this time.  ___ push yourself too hard during 
your recovery.  Rest when you feel tired.  Gradually return to 
normal activities over the next month.  We encourage you to walk 
regularly. Walking is the best exercise for circulation.  Walk 
short distances at first, even in the house, then do a little 
more each day.  It is okay to climb stairs.  You may need to 
climb them slowly and pause after every few steps.

DIET
You may have a decreased appetite for the next few weeks.
Follow a well balanced, heart-healthy diet, with moderate 
restriction of salt and fat.
Eat small, frequent meals with nutritious food options (high 
fiber, lean meats, fruits, and vegetables) to maintain your 
strength and to help with wound healing.

BOWEL AND BLADDER FUNCTION
You should be able to pass urine without difficulty.  Call you 
doctor if you have any problems urinating, such as burning, 
pain, bleeding, going too often, or having trouble urinating or 
starting the flow of urine.   Call if you have a decrease in the 
amount of urine.
You may experience some constipation after surgery because of 
pain medicine and changes in activity.  Increasing fluids and 
fiber in your diet and staying active can help.  To relieve 
constipation, you may take a mild laxative.

SMOKING
If you smoke, it is very important that you STOP.  Research 
shows that smoking makes vascular disease worse.  This could 
increase the chance of a blockage in an artery.  Talk to your 
primary care physician about ways to quit smoking.

PLEASE NOTE: After endovascular aortic repair (EVAR), it is very 
important to have regular appointments (every ___ months) for 
the rest of your life.  These appointments will include a CT 
(“CAT”) scan and/or ultrasound of your graft.  If you miss an 
appointment, please call to reschedule.

CALLING FOR HELP/DANGER SIGNS
CALL ___ in an EMERGENCY, such as
Any sudden, severe pain in the back, abdomen, or chest
A sudden change in ability to move or use your legs
Sudden, severe bleeding or swelling at either groin site that 
does not stop after applying pressure for ___ minutes

If you need help, please call us at ___.   If you call 
during nonbusiness hours, you will reach someone who can help 
you reach the vascular surgeon on call.
Call your surgeon right away for:
Pain in the groin area that is not relieved with medication, or 
pain that is getting worse instead of better
Increased redness at the groin puncture sites
New or increased drainage from the groin puncture sites, or 
white yellow, or green drainage
Any new bleeding from the groin puncture sites.  For sudden, 
severe bleeding, apply pressure for ___ minutes. If the 
bleeding stops, call your doctor right away to report what 
happened.  If it does not stop, call ___
Fever greater than 101.5 degrees
Nausea, vomiting, abdominal cramps, diarrhea or constipation
Any worsening pain in your abdomen
Problems with urination
Changes in color or sensation in your feet or legs
 
Followup Instructions:
___